US05068325
2-Amino-6-(2-phenyl-1-cyclopropyl-methyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
A solution of 2.0 g (6.4 mmol) of 2-amino-6-(2-phenyl-1-cyclopropyl-carbonyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine (melting point: 122°-126° C.; prepared from 2-phenyl-1-cyclopropyl-carboxylic acid chloride and 2 equivalents of 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine in chloroform) in 40 ml of tetrahydrofuran is added dropwise, with stirring and under nitrogen, to 0.73 g (19.1 mmol) of lithium aluminium hydride in 40 ml of tetrahydrofuran. The mixture is stirred for 2 hours in a bath at 40° C., then cooled, ethyl acetate is added to decompose any excess lithium aluminium hydride and hydrolysis is carried out by dropwise addition of saturated ammonium chloride solution. The precipitate is filtered off and the filtrate is evaporated down in vacuo. The evaporation residue is purified by column chromatography on silica gel (chloroform/methanol=10:1). Yield: 0.65 g (34% of theory), Melting point: 109°-113° C. (isopropanol).

reactant | 2-amino-6-(2-phenyl-1-cyclopropyl-carbonyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | 6.4 mmol, 2.0 g, 2 equivalents | NC=1SC=2CCN(CCC2N1)C(=O)C1C(C1)C1=CC=CC=C1 | C17H19N3OS
reactant | lithium aluminium hydride | 19.1 mmol, 0.73 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-Amino-6-(2-phenyl-1-cyclopropyl-methyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | NC=1SC=2CCN(CCC2N1)CC1C(C1)C1=CC=CC=C1 | C17H21N3S
